US07056937B2
[Exemplified by Preparation of 2-(3-Oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl)-acetamide]
To a solution of 1,2-phenylenediamine (21.5 g, 0.2 mol) in water (450 mL) was added dropwise a solution of maleimide, (20.0 g, 0.2 mol) in methanol (180 mL) over 60 min. The mixture was then stirred at 95° C. for 2 hours followed at rt overnight. The precipitate was collected via filtration and was washed with small amount of water for a few times to yield the title compound as a pale gray solid (pure product): 1H NMR (DMSO-d6) δ=10.2 (bs, 1H), 7.37 (bs, 1H) 6.88 (bs, 1H), 6.74–6.68 (m, 3H), 6.31–6.57 (m, 1H), 5.78 (bs, 1H), 4.08–4.04 (m, 1H), 2.63 (dd, 1H, J=3.6, 15.5 Hz), 2.32 (dd, 1H, J=3.3, 15.5 Hz); HPLC (CH3CN—H2O-0.1% TFA): Rf=9.49 min.

reactant | 1,2-phenylenediamine | 0.2 mol, 21.5 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | maleimide | 0.2 mol, 20.0 g | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | water | 450 mL | O | H2O
solvent | methanol | 180 mL | CO | CH4O
product | 2-(3-Oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl)-acetamide | O=C1C(NC2=CC=CC=C2N1)CC(=O)N | C10H11N3O2
